US08865712B2
e) (R)—N-(2-(6-bromo-3-fluoro-4-(triethylsilyl)pyridin-2-yl)-2-hydroxypropyl)-4-nitrobenzenesulfonamide
To a solution of crude (R)-1-amino-2-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-propan-2-ol hydrochloride (43.5 g, 109 mmol) in 335 ml THF was added a solution of NaHCO3 (21.02 g, 250 mmol) in 500 ml water. The mixture was cooled to 0-5° C. and a solution of 4-nitrobenzenesulfonyl chloride (26.5 g, 120 mmol) in 100 ml THF was added in a dropwise. The resulting emulsion was stirred overnight while allowing the temperature to reach rt. The mixture was extracted with TBME. The organic layer was dried with MgSO4.H2O, filtered and evaporated to give an orange resin which was purified on a silica gel column by eluting with Hexanes/10-20% EtOAc to yield 37.56 g of the title compound as a yellow resin. TLC (Hex/EtOAc 3/1) Rf=0.34; HPLC: RtH11=1.678 min; ESIMS: 548, 550 [(M+H)+, 1Br]; 1H-NMR (400 MHz, DMSO-d6): 8.40 (d, 2H), 8.06 (t, 1H), 7.97 (d, 2H), 7.45 (d, 1H), 5.42 (s, 1H), 3.23 (d, 2H), 1.44 (s, 3H) 0.97-0.81 (m, 15H); Chiral HPLC (Chiralpak AD-H 1213, UV 210 nm): 90% ee.

reactant | (R)-1-amino-2-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-propan-2-ol hydrochloride | 109 mmol, 43.5 g | Cl.NC[C@@](C)(O)C1=NC(=CC(=C1F)[Si](CC)(CC)CC)Br
reactant | NaHCO3 | 250 mmol, 21.02 g | C(=O)(O)[O-].[Na+]
reactant | 4-nitrobenzenesulfonyl chloride | 120 mmol, 26.5 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | THF | 335 ml | C1CCOC1 | C4H8O
solvent | water | 500 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (R)—N-(2-(6-bromo-3-fluoro-4-(triethylsilyl)pyridin-2-yl)-2-hydroxypropyl)-4-nitrobenzenesulfonamide | 37.56 g | BrC1=CC(=C(C(=N1)[C@](CNS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])(C)O)F)[Si](CC)(CC)CC | C20H27BrFN3O5SSi
